US08748624B2
STEP A: 2,2′-dichloro-4′-methoxy-[1,1′-biphenyl]-4-amine
The title compound was prepared as described in Example 159 substituting 3-chloro-4-iodoaniline and (2-chloro-4-methoxyphenyl)boronic acid for 4-bromo-3-chloroaniline and (4-(trifluoromethyl)phenyl)boronic acid, respectively.

reactant | 3-chloro-4-iodoaniline | ClC=1C=C(N)C=CC1I | C6H5ClIN
reactant | (2-chloro-4-methoxyphenyl)boronic acid | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
reactant | 4-bromo-3-chloroaniline | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
reactant | (4-(trifluoromethyl)phenyl)boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 2,2′-dichloro-4′-methoxy-[1,1′-biphenyl]-4-amine | ClC1=C(C=CC(=C1)N)C1=C(C=C(C=C1)OC)Cl | C13H11Cl2NO
